US08114865B2
Preparation of 4-Amino-N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide [(XVII), R1=R2=R3=H, R=3,5-difluorophenyl, R11=1-triphenylmethyl, Ar=4-amino-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-phenyl]
To a solution of N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-nitro-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide (4.05 g, 4.5 mmol) in 1,4-dioxane (100 mL) was added cyclohexene (10 mL) and 10% Pd/C (405 mg). The mixture was stirred at 90° C. for 5 hours, filtered and evaporated to dryness. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/n-hexane 2:1 affording the title compound as white solid (2.9 g).

reactant | N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-nitro-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide | 4.5 mmol, 4.05 g | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C1=C(C=C(C=C1)[N+](=O)[O-])N(C(C(F)(F)F)=O)C1CCOCC1)=O | C46H34F5N5O7S
reactant | cyclohexene | 10 mL | C1=CCCCC1 | C6H10
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 405 mg | [Pd] | Pd
product | 4-Amino-N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide | NC1=CC(=C(C(=O)NC2=NN(C3=CC=C(C=C23)S(=O)(=O)C2=CC(=CC(=C2)F)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C46H36F5N5O5S
